US08242145B2
Step 2: (2-Bromo-5-hydroxy-phenyl)-acetonitrile
To (2-bromo-5-methoxy-phenyl)-acetonitrile (2.6 g, 11.5 mmol) in CH2Cl2 (20 mL) at 0° C. under N2 was added boron tribromide (1M in CH2Cl2; 25.4 mL, 25.4 mmol). The mixture was stirred for 15 minutes at 0° C., and at mom temperature overnight. After a work-up with H2O and CH2Cl2, the crude material was purified by silica gel chromatography to give the desired product as a white solid (1.5 g).

reactant | (2-bromo-5-methoxy-phenyl)-acetonitrile | 11.5 mmol, 2.6 g | BrC1=C(C=C(C=C1)OC)CC#N | C9H8BrNO
reactant | boron tribromide | 25.4 mmol, 1M, 25.4 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2-Bromo-5-hydroxy-phenyl)-acetonitrile | 1.5 g | BrC1=C(C=C(C=C1)O)CC#N | C8H6BrNO
